US04102888
Step A-1. Preparation of N-(6-Carboxy-5-oxa-2-hexynyl)phthalimide
Potassium 7-iodo-3-oxa-5-heptynoate is added to a solution of potassium phthalimide (equimolar quantity) in ethanol at 25° C. The resulting solution is stirred and maintained at 25° C. until alkylation is complete. Evaporation of the reaction mixture in vacuo at 40° to 50° C. leaves a residue which is suspended in water. The aqueous suspension is acidified to Congo Red with dilute hydrochloric acid and extracted three times with ether. The combined organic extract is washed with saturated aqueous brine, dried over sodium sulfate, and filtered. In vacuo evaporation of the filtrate at 40° to 50° C. leaves the desired title compound.

reactant | Potassium 7-iodo-3-oxa-5-heptynoate | ICC#CCOCC(=O)[O-].[K+]
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(6-Carboxy-5-oxa-2-hexynyl)phthalimide | C(=O)(O)COCC#CCN1C(C=2C(C1=O)=CC=CC2)=O | C14H11NO5
